US09212190B2
To a solution of [(3S)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate (450 mg, 0.94 mmol, 1.00 equiv) in DMSO (10 mL) was added NaCN (276 mg, 5.63 mmol, 6.00 equiv) and DMAP (11 mg, 0.094 mmol, 0.10 equiv) at room temperature. The resulting solution was stirred for 2 h at 80° C. After cooling to r.t, the resulting solution was diluted with DCM (100 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by column chromatography on silica gel with DCM/MeOH (10:1) to afford 330 mg (86%) of 2-[(3R)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetonitrile as a yellow solid.

reactant | [(3S)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]methyl methanesulfonate | 0.94 mmol, 450 mg, 1.00 equiv | CS(=O)(=O)OC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N1CC(NCC1)=O | C21H28N4O5S2
reactant | NaCN | 5.63 mmol, 276 mg, 6.00 equiv | [C-]#N.[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | DMAP | 0.094 mmol, 11 mg, 0.10 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3R)-12-[[4-(3-oxopiperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-3-yl]acetonitrile | 330 mg, 86% | O=C1CN(CCN1)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC#N | C21H25N5O2S
